US06395734B1
To a mixture of 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1.67 g, 10 mmol) in dimethylformamide (10 mL) was added benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate (BOP reagent, 6 g, 13.5 mmol) followed by 3 mL of diisopropylethylamine. After stirring for 5 minutes, 2 mL of 1-methylpiperazine was added and the mixture was stirred at room temperature for 24 hours. To the reaction was then added 25 mL of 1 N sodium hydroxide and 25 mL of brine. After stirring for 30 minutes, the reaction mixture was poured into water (100 mL) and extracted (3×200 mL) with 10% of methanol in dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and evaporated on a rotary evaporator. The residue which remained was purified by chromatography(silica gel column, 5%-10% of methanol in dichloromethane) to give 1 g (40%) of 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carboxaldehyde.

reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 10 mmol, 1.67 g | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate | 13.5 mmol, 6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methylpiperazine | 2 mL | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide | 1 N, 25 mL | [OH-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | water | 100 mL | O | H2O
product | 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carboxaldehyde | 1 g, 40% | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
